US06762300B2
1) Synthesis of 5-bromobenzofuran-2-carboxamide
Performance of the reaction with ethyl bromoacetate: 200 g of 5-bromo-2-hydroxybenzaldehyde are dissolved in 2000 ml of NMP with stirring, and 144 g of potassium carbonate and 175 g of ethyl bromoacetate are added. The mixture is stirred at 105° under nitrogen for 15 hours. The resultant orange solution dotted with crystals is cooled to 25°, 135 g of formamide are added, and the mixture is stirred for a further 30 minutes. 557 ml of sodium methoxide (30% in MeOH) are then allowed to run in over the course of 15 minutes without cooling. After 3 hours, a brownish solution dotted with crystals is present. It is poured into 6 litres of demineralized water (10°), and the mixture is stirred for a further 30 minutes. The crystals are filtered off with suction, washed with 1 litre of demineralized water, re-suspended in 4 litres of demineralized water, filtered off with suction and re-washed with 1 litre of demineralized water. The crystals are dried overnight to constant weight under reduced pressure at 60° C. (product weight: 113 g of pale beige crystals; m.p. 210-213°; CAS 35351-21-4).

reactant | ethyl bromoacetate | BrCC(=O)OCC | C4H7BrO2
reactant | 5-bromo-2-hydroxybenzaldehyde | 200 g | BrC=1C=CC(=C(C=O)C1)O | C7H5BrO2
reactant | potassium carbonate | 144 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 175 g | BrCC(=O)OCC | C4H7BrO2
reactant | formamide | 135 g | C(=O)N | CH3NO
reactant | sodium methoxide | 557 ml | C[O-].[Na+]
solvent | NMP | 2000 ml | CN1CCCC1=O | C5H9NO
solvent | water | 6 litres | O | H2O
product | 5-bromobenzofuran-2-carboxamide | BrC=1C=CC2=C(C=C(O2)C(=O)N)C1 | C9H6BrNO2
